Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
diziness, fall
 
Major Surgical or Invasive Procedure:
___ EGD
___ colonoscopy
___ hemorrhoidectomy
___ capsule endoscopy
___ balloon enteroscopy

 
History of Present Illness:
(limited, patient poor historian) 
___ with PMH of small bowel neuroendocrine tumor, 
diverticulosis, schizophrenia reports to ED after a fall at his 
group home.  He felt dizzy after standing and experienced a 
fall.  He had left knee pain after the fall and there was no 
head strike or LOC.  He reported no preceding SOB, chest 
pain/pressure, or palpitations.  He was brought to the ED for 
further evaluation. 

In the ED, initial vitals were: 97.2 ___ 20 100%.  He 
underwent XR of the LLE given his pain which revealed a Weber 
fracture for which orthopedics was consulted.  The recommended 
an aircast boot with crutches and ___ as needed and ortho 
followup in 1 week.  His Hct was 30, down from a baseline of 36 
and subsequently decreased to 27 on recheck.  Rectal exam showed 
BRBPR that was guiac positive.  GI was consulted who recommended 
the patient be given IV PPI BID and be made NPO for monitoring.  
While his BPs were initially low at 92/50 and tachycardic with 
HR 103, he responded to 2L IVF with vital signs before transer 
HR 81 BP 129/71.   
 
ROS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
 
Past Medical History:
- H/o duodenal neuroendocrine tumor
- ___ esophagus
- Schizophrenia
- Depresion/anxiety
- HTN
- HL
- Hyperthyroidism
- Glaucoma 
 
Social History:
___
Family History:
Father - ___ abuse
Mother - ___ abuse
Sister - no medical problems
He does not know any further family history
 
Physical Exam:
ADMISSION EXAM:
=============================
VS: T: 98.3 BP: 152/76 HR: 86 RR 18 SO2: 100% RA  
GENERAL: Alert, NAD
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated
LUNGS: CTAB, good air movement, no inc WOB
CV: Regular rate and rhythm, normal S1 S2, II/VI systolic murmur
ABD: soft, non-tender, non-distended, bowel sounds present, no 
organomegaly  
EXT: Warm, well perfused, 2+ pulses.  LLE with edema around the 
ankle.  Hips symmetric, non-tender, witout evidence of hematoma. 
  
SKIN: Ecchymosis over right knee and right leg.  Full ROM in LLE 
ankle. 2+ ___ pulses bilaterally.   
NEURO: Speaks slowly and answers in single words or short 
sentences, CN II - XII intact, motor strength full throughout.  
Sensation in feet intact

DISCHARGE EXAM:
=============================

VS: Tm 98.2 (Tm 99) , BP 114/62, 66, R18, O2 98%RA
GENERAL: NAD, laying comfortably in bed
HEENT: Sclera anicteric, MMM, oropharynx clear  
LUNGS: poor inspiratory effort, clear diffusely, mild crackles 
at base 
CV: Regular rate and rhythm, normal S1 S2, II/VI systolic murmur 
at RUSB
ABD: soft, non-tender, non-distended, bowel sounds present, no 
organomegaly  
EXT: Warm, well perfused, 2+ pulses. LLE with edema around the 
ankle and dorsum of the foot, decreased since yesterday. 
NEURO: Speaks slowly and answers in single words or short 
sentences, CN II - XII grossly intact, baseline facial asymmetry 
that activates symmetrically

 
Pertinent Results:
ADMISSION LABS:
=============================
___ 12:15PM   WBC-12.9*# RBC-3.60* HGB-10.2* HCT-30.4* 
MCV-85 MCH-28.4 MCHC-33.5 RDW-15.6*
___ 12:15PM   NEUTS-86.1* LYMPHS-9.3* MONOS-4.2 EOS-0.3 
BASOS-0.2
___ 12:15PM   ___ PTT-27.0 ___
___ 12:15PM   CALCIUM-9.0 PHOSPHATE-3.4 MAGNESIUM-2.2
___ 12:15PM   GLUCOSE-135* UREA N-26* CREAT-1.4* SODIUM-142 
POTASSIUM-3.7 CHLORIDE-106 TOTAL CO2-23 ANION GAP-17
___ 12:32PM   LACTATE-2.8*
___ 05:55PM   HCT-27.5*
___ 12:00AM   WBC-8.9 RBC-3.02* HGB-8.1* HCT-25.3* MCV-84 
MCH-26.9* MCHC-32.1 RDW-15.9*

DISCHARGE LABS:
=============================
___ 05:50AM BLOOD WBC-6.8 RBC-3.08* Hgb-8.0* Hct-26.5* 
MCV-86 MCH-26.0* MCHC-30.2* RDW-15.9* Plt ___
___ 05:50AM BLOOD Glucose-83 UreaN-7 Creat-0.9 Na-144 K-3.5 
Cl-107 HCO3-27 AnGap-14
___ 05:50AM BLOOD Calcium-7.9* Phos-3.8 Mg-1.9
___ 05:15AM BLOOD calTIBC-228* Hapto-267* Ferritn-39 
TRF-175*

MICRO:
=============================
 Blood Culture, Routine (Final ___:    NO GROWTH.
URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      GRAM NEGATIVE ROD #2.    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML

IMAGING:
=============================
LEFT ANKLE XR
IMPRESSION: 
Weber B fracture of the distal fibula.  Posterior subluxation of 
the talus relative to the distal tibia.  Limited evaluation of 
the posterior malleolus. 
 
___ EGD
Abnormal mucosa in the stomach (biopsy)
Duodenal mass
Abnormal mucosa in the esophagus
Small hiatal hernia
Otherwise normal EGD to third part of the duodenum

___ ___
Diverticulosis of the sigmoid colon, descending colon, 
transverse colon and ascending colon
Grade 3 internal hemorrhoids. There was an associated polypoid 
loesion that had stigmata of recent bleeding. This may account 
for the blood loss.
The cecum was not completely visualized as the colon was very 
tortuous and there was significant looping.
Otherwise normal colonoscopy to proximal ascending colon

___ LUE U/S
Proximal cephalic vein thrombosis.  Otherwise unremarkable.

___ Capsule endoscopy: Procedure Information and Findings
1. Fluid in the stomach
2. Duodenal mass (not bleeding)
3. Jejunal angioectasias (not bleeding)
4. Jejunal lymphangiectasias
5. Capsule did not reach the cecum
6. No active bleeding site seen
Summary and Recommendations
Summary: Duodenal mass, small non bleeding jejunal angioectasias
and lymphangiectasias. Capsule doid not
reach the cecum.

___ KUB: Endoscopic capsule projecting over a loop of bowel 
which likely represents the transverse colon. 

___ Balloon Enteroscopy: Single sessile 12 mm non-bleeding 
polyp in the duodenal bulb, biopsies performed. 
Otherwise normal single-balloon enteroscopy to distal jejunum.

 
Brief Hospital Course:
___ with PMH of small bowel neuroendocrine tumor, 
diverticulosis, schizophrenia p/w diziness and fall found to 
have LLE fracture and decreased hematocrit with guiac+ stool and 
BRBPR on rectal exam with colonoscopy showing abnormal 
hemorrhoid. 

# GIB - Based on his above workup he appeared to both have upper 
and lower sources of bleeding with repeated BRBPR as well as 
multiple melanotic BMs.  He underwent EGD and ___ which showed 
a bleeding polyp on a hemorrhoid which was removed in the OR by 
colorectal surgery.  He continued to have melena and underwent 
capsule endoscopy which showed a non bleeding duodenal mass and 
non bleeding angioectasias. Balloon enteroscopy was performed 
and identified a duodenal bulb that was biopsied. No ablation 
was done to angioectasias. His Hgb nadir was 6.9 for which he 
was transfused 1u pRBC.  His H/H on discharge was 8, which was 
stable since ___. His home ASA and BP meds were held during 
admission and can be restarted upon f/u with PCP if his CBC is 
stable and he is hypertensive.   

# UA and Urine culture was done on admission. UA was negative, 
but reflex culture grew Ecoli and Bactrim was started. After 
further discussion, it was determined that culture was likely 
contamination from feces. In the setting of negative UA and 
being asymptomatic, Bactrim was stopped. He was given a total of 
2 doses of Bactrim. 

# SUPERFICIAL VENOUS THROMBOSIS - of LUE provoked by IV.  He was 
treated with tylenol, heat packs, and elevation of the arm to 
good effect. He was not anticoagulated given the thrombosis was 
superficial. Clinically improved at discharge. 

# FALL - given patient's dizziness and tachycardia with 
hypotension on admission was likely orthostatic +VS changes on 
___ when checked. Additional etiologies include, symptomatic 
anemia, valvular lesion.  No concerning arrhythmias on tele.

# LLE Weber fracture - no evidence of neurovascular compromise 
and therefore is not operative candidate.  He was provided an 
aircast boot and rolling walker with plans for home ___. 

CHRONIC ISSUES:
# CKD - Cr now below supposed baseline at 1.4, avoid 
nephrotoxins
# SCHIZOPHRENIA - cont home medication regimen
# HTN - hold meds as above
# HL - cont statin

TRANSITIONAL ISSUES:
- f/u orthopedics followup (to be scheduled 1 week after 
discharge) 
- f/u appointment with colorectal surgery (please call to 
schedule)
- check CBC at PCP followup appointment, restart ASA if stable
- restart home BP meds if hypertensive
- f/u duodenal bulb biopsy
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PNEUMOcoccal 23-valent polysaccharide vaccine 0.5 ml IM NOW 
X1 
2. Aspirin 325 mg PO DAILY 
3. BusPIRone 10 mg PO QAM 
4. BusPIRone 15 mg PO QHS 
5. Docusate Sodium 100 mg PO BID 
6. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
7. Fluoxetine 20 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Procardia XL 90 mg oral daily 
10. Artificial Tears Preserv. Free 1 DROP BOTH EYES QHS 
11. RISperidone 2 mg PO BID 
12. Simvastatin 20 mg PO QPM 
13. TheraTears (carboxymethylcellulose sodium) 0.25 % ophthalmic 
___ 
14. Ranitidine 150 mg PO BID 
15. Levothyroxine Sodium 100 mcg PO DAILY 
16. Testosterone 4 mg Patch 1 PTCH TD DAILY 
17. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
18. BusPIRone 10 mg PO NOON 
19. Calcium Carbonate 500 mg PO BID 
20. Alendronate Sodium 70 mg PO QTUES 

 
Discharge Medications:
1. please provide patient with rolling walker: diagnosis: left 
leg fracture, prognosis: good, length of need: 3 months, reason 
for need: gait training 
2. Artificial Tears Preserv. Free 1 DROP BOTH EYES QHS 
3. BusPIRone 10 mg PO QAM 
4. BusPIRone 15 mg PO QHS 
5. BusPIRone 10 mg PO NOON 
6. Calcium Carbonate 500 mg PO BID 
7. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
8. Fluoxetine 20 mg PO BID 
9. Levothyroxine Sodium 100 mcg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. RISperidone 2 mg PO BID 
12. Simvastatin 20 mg PO QPM 
13. Pantoprazole 40 mg PO Q24H 
14. Alendronate Sodium 70 mg PO QTUES 
15. Docusate Sodium 100 mg PO BID 
16. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
17. Testosterone 4 mg Patch 1 PTCH TD DAILY 
18. TheraTears (carboxymethylcellulose sodium) 0.25 % ophthalmic 
___ 
19. Aspirin 81 mg PO DAILY 
20. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Gastrointestinal bleed

SECONDARY DIAGNOSES:
- acute anemia from blood loss
- left lower extremity weber b fracture
- hypertension

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance walker.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure to take care of you while you were at ___. 
You were admitted to the hospital after a fall.  You were found 
to have bleeding from your intestines.  You had a hemorrhoid 
which was likely causing a portion of your bleeding.  It was 
fixed by colorectal surgery.  However, it did not explain all of 
your bleeding so you had a capsule endoscopy which showed some 
blood vessels that could have caused the bleeding. You had a 
balloon enteroscopy to further look in your intestines. They did 
not find any vessels bleeding. 

You need to wear an AirCast boot for your fracture when you walk 
around.  You should use a rolling walker when you are at home. 

One urine tests showed a possible infection and you were started 
on antibiotics. Further tests did not confirm an infection and 
your antibiotic was stopped. 

Sincerely, 

Your medical team at ___
 
Followup Instructions:
___